US06831193B2
N-([1,1′-biphenyl]-3-ylmethyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
[1,1′-Biphenyl]-3-carbaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | [1,1′-Biphenyl]-3-carbaldehyde | C1(=CC(=CC=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-([1,1′-biphenyl]-3-ylmethyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | C1(=CC(=CC=C1)CN[C@H]1CCCC2=CC=CC=C12)C1=CC=CC=C1 | C23H23N
